US04882434
Preparation of 4-nitrobenzyl 2-phenoxy-5-oxo-2-tetrahydrofurancarboxylate [Compound (1)]
Phenol (941 mg), 1-(4-nitrobenzyl) 2-oxoglutarate (3.09 g) and DCC (2.27 g) were dissolved in 100 ml of dichloromethane and stirred for 3 hours at room temperature. The precipitated crystals were filtered off and the filtrate was subjected to silica gel column chromatography eluting with dichloromethane-ethyl acetate (3:1) to obtain 1.55 g of the title compound.

reactant | Phenol | 941 mg | C1(=CC=CC=C1)O | C6H6O
reactant | 1-(4-nitrobenzyl) 2-oxoglutarate | 3.09 g | O=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CCC(=O)[O-]
reactant | DCC | 2.27 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-nitrobenzyl 2-phenoxy-5-oxo-2-tetrahydrofurancarboxylate | 1.55 g | O(C1=CC=CC=C1)C1(OC(CC1)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H15NO7
